US05494928
A suspension of 0.28 g of sodium hydride dispersion in 40 ml of tetrahydrofuran was treated with 0.98 g of 6-methylindole at 0° and stirred at this temperature for 1 hour. After the addition of 1 ml of (RS)-methyloxirane the reaction mixture was stirred at room temperature for 60 hours and subsequently treated with 7 ml of water. The mixture was diluted with 370 ml of ether, washed twice with 120 ml of water and with 60 ml of saturated sodium chloride solution and the organic phase was dried over sodium sulfate. After removal of the solvent the residue was chromatographed over 35 g of silica gel with toluene-ethyl acetate (19:1). There was obtained 0.5 g (35%) of (RS)-1-(6-methyl-indol-1-yl)-propan-2-ol as light brown crystals with m.p. 65°-69°.

reactant | sodium hydride | 0.28 g | [H-].[Na+]
reactant | 6-methylindole | 0.98 g | CC1=CC=C2C=CNC2=C1 | C9H9N
reactant | (RS)-methyloxirane | 1 ml | CC1OC1 | C3H6O
reactant | water | 7 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ether | 370 ml | CCOCC | C4H10O
product | (RS)-1-(6-methyl-indol-1-yl)-propan-2-ol | 0.5 g, 35% | CC1=CC=C2C=CN(C2=C1)CC(C)O | C12H15NO
